US06140511
A solution of 3-mercapto-2-butanone (2.1 g, 0.020 mol) and morpholine (1.5 g, 0.017 mol) in diethoxymethane (20 mL) was heated to reflux and treated with N-allyl-3-trimethylsilylpropiolic amide (3.04 g, 0.017 mol). The mixture is heated at reflux under a nitrogen atmosphere overnight. An additional portion of the 3-mercapto-2-butanone (0.7 g, 0.0067 mol) was added, and heating was continued for 4 hours more. A final portion of the 3-mercapto-2-butanone (0.7 g, 0.0067 mol) was added, heating was continued for 4 hours at reflux, then the mixture was cooled and evaporated under reduced pressure. The residue was extracted with two 40 mL portions of hot heptane, filtered, and allowed to cool (ice/salt bath). The resulting solid precipitate was collected by filtration and dried to give 4.0 g of 4-hydroxy-4,5-dimethyl-2-trimethylsilanyl-dihydrothiophene-3-carboxylic acid allylamide (84% yield).

reactant | 3-mercapto-2-butanone | 0.020 mol, 2.1 g | SC(C(C)=O)C | C4H8OS
reactant | morpholine | 0.017 mol, 1.5 g | N1CCOCC1 | C4H9NO
reactant | N-allyl-3-trimethylsilylpropiolic amide | 0.017 mol, 3.04 g | C(C=C)NC(C#C[Si](C)(C)C)=O | C9H15NOSi
reactant | 3-mercapto-2-butanone | 0.0067 mol, 0.7 g | SC(C(C)=O)C | C4H8OS
reactant | 3-mercapto-2-butanone | 0.0067 mol, 0.7 g | SC(C(C)=O)C | C4H8OS
solvent | diethoxymethane | 20 mL | C(C)OCOCC | C5H12O2
product | 4-hydroxy-4,5-dimethyl-2-trimethylsilanyl-dihydrothiophene-3-carboxylic acid allylamide | 4.0 g, 84% yield | C(C=C)NC(=O)C1C(SC(C1(C)O)C)[Si](C)(C)C | C13H25NO2SSi
